US08975254B2
b) N—((S)-2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propyl)-2-(1-hydroxyethyl)oxazole-4-carboxamide
Sodium borohydride (0.051 g, 1.352 mmol) was added into a flask and the atmosphere was replaced with nitrogen. Dry ethanol was added and the reaction mixture was cooled to 0° C. (S)-2-acetyl-N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propyl)oxazole-4-carboxamide (0.269 g, 0.676 mmol) was added and the reaction mixture was warmed slowly to RT while stirring overnight. The crude product was cooled to 0° C., the pH was adjusted below 7 and the mixture was evaporated. 5% of DCM/MeOH was added and the crude product was washed with 1M NaHCO3, water and dried. Yield 84%. 1H-NMR (400 MHz; CDCl3): δ 1.58 (d, 3H), 1.61 (d, 3H), 2.40 (d, 1H), 3.79 (m, 1H), 3.89 (m, 1H), 4.62 (m, 1H), 4.94 (m, 1H), 6.61 (d, 1H), 7.46 (m, 1H), 7.49 (d, 1H), 7.69 (d, 1H), 7.85 (dd, 1H), 7.98 (d, 1H), 8.15 (s, 1H).

reactant | Sodium borohydride | 1.352 mmol, 0.051 g | [BH4-].[Na+]
reactant | (S)-2-acetyl-N-(2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propyl)oxazole-4-carboxamide | 0.676 mmol, 0.269 g | C(C)(=O)C=1OC=C(N1)C(=O)NC[C@H](C)N1N=C(C=C1)C1=CC(=C(C=C1)C#N)Cl | C19H16ClN5O3
solvent | ethanol | C(C)O | C2H6O
product | N—((S)-2-(3-(3-chloro-4-cyanophenyl)-1H-pyrazol-1-yl)propyl)-2-(1-hydroxyethyl)oxazole-4-carboxamide | Yield 84% | ClC=1C=C(C=CC1C#N)C1=NN(C=C1)[C@H](CNC(=O)C=1N=C(OC1)C(C)O)C | C19H18ClN5O3
